Name:  ___           Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
left foot digit ___ dry gangrene, heel ulcer
 
Major Surgical or Invasive Procedure:
left fem-AKpop bpg ___

 
History of Present Illness:
___ man presents for elective LLE
femoral to above knee popliteal bypass grafting. Patient
originally presented in ___, but at that time was found to have
critical aortic stenosis and CHF with acute renal failure, and
multi-vessel CAD. On ___ he underwent AVR ___ mech valve)
and 3-vessel CABG. At that time, the patient's LLE bypass was
delayed due to these cardiac issues. An angiogram during that
admission showed the following results below. He now presents 
for
elective LLE bypass.

 
Past Medical History:
insulin dependent diabetes mellitus
coronary artery disease -s/p MI,s/p PCI ___
history of aortic valve stenosis,s/p AVR(___. 
___
chroinc systolic CHF 
atrial fibrillation,anticoagulated
polyarthritis rheumatica,predisone dependent
peripheral vascular disease
s/p right BKA
s/p AICD implant
 
Social History:
___
Family History:
N/C
 
Physical Exam:
Gen: NAD, pleasant, A&O x 3
VS: 98.6 91 127/51 18 93RA
HEENT: EOMI, PERRLA
CV: irreg rate/rhythm, +S1/S2, no m/g/r
Pulm: CTA in upper fields b/l, crackles in bases
Abd: flat, +BS, nt/nd,
Ext: R BKA; L foot digits ___ with dry gangrene on distal joints
top part of toes, dark eschar on heel and dorsum of foot.
Neuro: CNII-XII grossly intact
Pulses
     Rad   Fem   Pop   ___   DP
  R  P     P     D     Amputee       
  L  P     P     D     D    D

 
Pertinent Results:
___ 11:00PM   ___ PTT-43.4* ___
___ 11:00PM   PLT COUNT-337
___ 11:00PM   WBC-11.4* RBC-3.62* HGB-10.9* HCT-33.6* 
MCV-93 MCH-30.2 MCHC-32.5 RDW-17.2*
___ 11:00PM   CALCIUM-9.3 PHOSPHATE-3.9 MAGNESIUM-2.1
___ 11:00PM   estGFR-Using this
___ 11:00PM   GLUCOSE-137* UREA N-18 CREAT-0.9 SODIUM-140 
POTASSIUM-5.1 CHLORIDE-99 TOTAL CO2-33* ANION GAP-___ Admitted for IV heparin bridge. coumadin d/c'd.

___ IV heparin continued. preoped for surgery

___ Surgery cancelled secondary to scheduling problems in 
OR.,Vtach on moniter
asymptomatic. electrolytes monitered.

___ DOS: Left fem-AKpop bpg.

___ POD#1 No overnight events. A-line discontinued. remains 
on bedrest today.
Iv heparin dosing adjusted for  goal PTT 60-80. Coumadin 7.5mgm 
given.fluids discontinued.Remain in VICU.

___ low systollic B/P which responded to fluid 
resustation.HCT stable.
EP consulted ;for pacer interrogation. for brady cardia.hematoma 
left thigh stable. Neurotin started for neuropathy. Coumadin 
started. Heparin d/c'd ___ held for elevated INR 
___.

___ INR 3.1 coumadin resarted at 5mgm daily. moniter INR 
dqaily for goal of 2.5-3.5
stools sent for C. diff + x 2, flagyl started ___. need to 
continue x 13 more days. 
Need to closely  INR and adjust coumadin dose. hematoma stable 
but tender to touch. no erythema. D/C to rehab.
 
Medications on Admission:
celexa 20mgm daily
mag ox 400mgm daily
spirolactone 12.5mgm daily
dig .125mgm q 48hrs
protonix 40mgm daily
percocets prn
ipratropium IH 
carvedilol 6.25mgm bid
rosuvatatin 20mgm
hydrocort 10mgm daily
lopressor 100mgm daily
lisinopril 5mgm daily
lasix 5mgm daily
coumadin 7.5mgm daily
ASA 325mg daily
 
Discharge Medications:
1. Citalopram 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
2. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
3. Spironolactone 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).  
5. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO EVERY OTHER DAY 
(Every Other Day).  
6. Hydrocortisone 5 mg Tablet Sig: Two (2) Tablet PO QD ().  
7. Furosemide 80 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
8. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

9. Oxycodone 5 mg/5 mL Solution Sig: ___  PO Q6H (every 6 hours) 
as needed for pain.  
10. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO TID 
(3 times a day).  
11. Simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
12. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

13. Metoprolol Succinate 50 mg Tablet Sustained Release 24 hr 
Sig: One (1) Tablet Sustained Release 24 hr PO DAILY (Daily).  
14. Gabapentin 300 mg Capsule Sig: One (1) Capsule PO Q8H (every 
8 hours).  
15. Bisacodyl 5 mg Tablet, Delayed Release (E.C.) Sig: Two (2) 
Tablet, Delayed Release (E.C.) PO DAILY (Daily) as needed.  
16. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours).  
17. Carbamide Peroxide 6.5 % Drops Sig: ___ Drops Otic BID (2 
times a day) for 4 days.  
18. Metronidazole 500 mg Tablet Sig: One (1) Tablet PO Q8H 
(every 8 hours) for 13 days.  
19. Insulin Glargine 100 unit/mL Cartridge Sig: Twenty (20) 
UNITS Subcutaneous at bedtime.  
20. Warfarin 2.5 mg Tablet Sig: Two (2) Tablet PO at bedtime: MD 
to check INR q24hrs and adjust dose as needed to maintain INR 
2.5-3.5.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Leftfoot dry gangrene of digits ___, 
Left heel ulceration
perpheral vascular disease s/p rt. BKA
aortic valve stenosis s/p AVR (St. ___ ___ (on 
anticoagulation)
coronary artery disease s/P MI, s/p PCI ___, s/p CABG ___ 
chronic systolic CHF
atrial fibrillation, anticoagulated
DM2, neuropathy, insulin dependant
polyarthritis rheumatica, steroid dependant 
postoperative left thigh hematoma-stable
C. difficile infection

 
Discharge Condition:
stable

 
Discharge Instructions:
may ambulate essential distances
may shower, no tub baths
no driving until seen in followup
continue all medications as directed
call if you develope a fever >101.5
moniter INR daily goal2.5-3.5
patient is on flagyl which interacts with coumadin and will 
elevate INR. please do 
INR ___
please give 5mgm coumdadin tonight ___
call if your groin or leg wounds develope swelling, redness or 
drainage
continue all medications as directed
continue a stool softner while on narcotics
 
Followup Instructions:
___